US07378415B2
4-(7-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.111 g, 0.242 mmol) was dissolved in 5 mL ethyl alcohol and brought to reflux. To the solution was added ethanolic hydrogen chloride (2 mL of a 2N solution, 4.0 mmol) and reflux continued for 0.5 hours. The solution is concentrated to 1 mL and ethyl ether (10 mL) is added until a white precipitate is observed. Filtration gave 0.085 g (quantitative) of 7-benzenesulfonyl-4-piperidin-4-yl-3,4-dihydro-2H-benzo[1,4]oxazine hydrochloride as a white powder. MS: 359 (M+H)+, mp: 251.9-253.2° C.

reactant | 4-(7-Benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.242 mmol, 0.111 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCOC2=C1C=CC(=C2)S(=O)(=O)C2=CC=CC=C2 | C24H30N2O5S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
product | 7-benzenesulfonyl-4-piperidin-4-yl-3,4-dihydro-2H-benzo[1,4]oxazine hydrochloride | 0.085 g | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C2CCNCC2)C=C1 | InChI=1S/C19H22N2O3S.ClH/c22-25(23,16-4-2-1-3-5-16)17-6-7-18-19(14-17)24-13-12-21(18)15-8-10-20-11-9-15;/h1-7,14-15,20H,8-13H2;1H
